US06080872
N-(2-Hydroxyethyl)-1,2,3,6-tetrahydrophthalimide (195.2 g, 1 mol) was dissolved in diisobutyl 1,2,3,6-tetrahydrophthalate (141.2 g, 0.5 mol). The mixture was kept at 150° C. under vacuum to eliminate any traces of water. Titanium tetrabutoxide (1.7 g) was added under atmospheric pressure and the transesterification reaction was carried out distilling off the isobutyl alcohol formed. As the reaction proceeded the temperature was increased stepwise to 230° C. and the pressure was lowered to 20 Torr (26.7 mbar). After ca. 24 h, 265 g of brown crude bis[2-(1,2,3,6-tetrahydrophthalimido)ethyl] 1,2,3,6-tetrahydrophthalate were obtained.

reactant | N-(2-Hydroxyethyl)-1,2,3,6-tetrahydrophthalimide | 1 mol, 195.2 g | OCCN1C(C2C(C1=O)CC=CC2)=O | C10H13NO3
reactant | diisobutyl 1,2,3,6-tetrahydrophthalate | 0.5 mol, 141.2 g | C(C1C(C(=O)OCC(C)C)CC=CC1)(=O)OCC(C)C | C16H26O4
catalyst | Titanium tetrabutoxide | 1.7 g | [O-]CCCC.[O-]CCCC.[O-]CCCC.[O-]CCCC.[Ti+4]
solvent | water | O | H2O
product | bis[2-(1,2,3,6-tetrahydrophthalimido)ethyl] 1,2,3,6-tetrahydrophthalate | 265 g | C(C1C(C(=O)OCCN2C(C3C(C2=O)CC=CC3)=O)CC=CC1)(=O)OCCN1C(C3C(C1=O)CC=CC3)=O | C28H32N2O8
